US07217722B2
N-(2,6-Dichlorophenyl)-N′-(1H-5-indazolyl)urea
5-Aminoindazole (100 mg, 0.75 mmol) and 2,6-dichlorophenyl isocyanate (155.3 mg, 0.83 mmol, 1.1 eq) were dissolved in toluene, and the mixture was then stirred at 110° C. for 4 hr.

reactant | 5-Aminoindazole | 0.75 mmol, 100 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | 2,6-dichlorophenyl isocyanate | 0.83 mmol, 155.3 mg, 1.1 eq | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-Dichlorophenyl)-N′-(1H-5-indazolyl)urea | ClC1=C(C(=CC=C1)Cl)NC(=O)NC=1C=C2C=NNC2=CC1 | C14H10Cl2N4O
